US08168666B2
h) Preparation of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenol
A 10% palladium carbon catalyst (30 mg) was added to a mixed solution of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyl benzyl ether (264.9 mg, 0.61 mmol) in methanol (10 mL), followed by hydrogenation overnight. The catalyst was separated from the reaction solution by filtration, followed by concentration under reduced pressure to obtain 221.1 mg of the title compound (yield: 100%) as a pale yellow oil.

reactant | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyl benzyl ether | 0.61 mmol, 264.9 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCOC)CCC | C21H22F6O3
catalyst | palladium carbon | 30 mg | [C].[Pd]
solvent | methanol | 10 mL | CO | CH4O
product | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenol | 221.1 mg, yield: 100% | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)O)CCC)(F)F | C14H16F6O3
